US07723368B2
Step 3) (3-{3-[2-(4-Difluoromethoxy-phenyl)-2-oxo-acetyl]-phenyl}-cyclobutylidene)-acetic acid methyl ester
In a 250 ml round bottom flask was dissolved (3-{3-[2-(4-Difluoromethoxy-phenyl)-2-oxo-acetyl]-phenyl}-cyclobutyl)-acetic acid methyl ester (1.348 g, 3.66 mmol) in DMSO (45 mL). Bis(acetonitrile)dichloropalladium was added and the flask heated (oil bath; 145° C.) for 4 hours. More Bis(acetonitrile)dichloro-palladium (90 mg) was added and heating was continued for another 4 hours. The crude material was partitioned between water (50 mls) and dichloromethane. Dichloromethane extracts (2×50 mls) were combined and concentrated onto silica gel. Purification by column chromatography (gradient; 10-20% EtOAc in hexanes) afforded 1.17 gm of a yellow oil (80%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.90-3.02 (m, 1H) 3.05-3.16 (m, 1H) 3.22-3.28 (m, 1H) 3.49-3.59 (m, 1H) 3.62-3.64 (m, 3H) 3.72-3.82 (m, 1H) 5.73-5.77 (m, 1H) 7.39 (dt, J=9.3, 2.5 Hz, 2H) 7.46 (t, J=73.0 Hz, 2H) 7.59 (t, J=7.8 Hz, 1H) 7.72-7.80 (m, 2H) 7.85 (t, J=1.9 Hz, 1H) 8.02 (dt, J=9.4, 2.6 Hz, 2H); MS (ES) m/z 401.1 [M+H]+

reactant | (3-{3-[2-(4-Difluoromethoxy-phenyl)-2-oxo-acetyl]-phenyl}-cyclobutyl)-acetic acid methyl ester | 3.66 mmol, 1.348 g | COC(CC1CC(C1)C1=CC(=CC=C1)C(C(=O)C1=CC=C(C=C1)OC(F)F)=O)=O | C22H20F2O5
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
catalyst | Bis(acetonitrile)dichloropalladium | CC#N.CC#N.Cl[Pd]Cl
catalyst | Bis(acetonitrile)dichloro-palladium | 90 mg | CC#N.CC#N.Cl[Pd]Cl
product | (3-{3-[2-(4-Difluoromethoxy-phenyl)-2-oxo-acetyl]-phenyl}-cyclobutylidene)-acetic acid methyl ester | 1.17 gm, 80% | COC(C=C1CC(C1)C1=CC(=CC=C1)C(C(=O)C1=CC=C(C=C1)OC(F)F)=O)=O | C22H18F2O5
